US05532402
A 2-liter eggplant type flask was charged with 179.2 g (1.081 mol) of potassium iodide, 300 ml of acetone and 250 ml of acetonitrile, to which 100 g (1.081 mol) of chloroacetone were added, thereby forming a white suspension. Further, 134 g (1,081 tool) of trimethylphosphite were added to stir the resulting mixture for 6 hours at 20° C. and for 4 hours at 50° C. After the thus-obtained solution was filtered through Celite, the solvent was distilled off to obtain a product in the form of a brown oil. This oily product was subjected to fractional distillation under reduced pressure (at 81-85° C. and 0.02 mmHg) to obtain 127.5 g (yield: 71%) of dimethyl 2-oxopropylphosphonate. The result of analysis of this compound by 1H-NMP is described below.

reactant | potassium iodide | 1.081 mol, 179.2 g | [I-].[K+]
reactant | acetone | 300 ml | CC(=O)C | C3H6O
reactant | chloroacetone | 1.081 mol, 100 g | ClCC(C)=O | C3H5ClO
reactant | trimethylphosphite | 134 g | COP(OC)OC | C3H9O3P
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | dimethyl 2-oxopropylphosphonate | 127.5 g, yield: 71% | O=C(CP(OC)(OC)=O)C | C5H11O4P
